US08791146B2
2-Ethoxy-4-[4-(2-hydroxyethoxy)phenyl]-6-sulphanylpyridine-3,5-dicarbonitrile
1 g (2.909 mmol) of 2-chloro-6-ethoxy-4-[4-(2-hydroxyethoxy)phenyl]pyridine-3,5-dicarbonitrile is initially charged in 7.5 ml of DMF, 454 mg (5.818 mmol) of sodium sulphide are added and the mixture is stirred at room temperature overnight. The mixture is concentrated, the residue is triturated with acetonitrile and the solid is filtered off and dried under high vacuum. This gives 230 mg (24% of theory) of the target compound.

reactant | 2-chloro-6-ethoxy-4-[4-(2-hydroxyethoxy)phenyl]pyridine-3,5-dicarbonitrile | 2.909 mmol, 1 g | ClC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)OCC | C17H14ClN3O3
reactant | sodium sulphide | 5.818 mmol, 454 mg | [S-2].[Na+].[Na+]
solvent | DMF | 7.5 ml | CN(C)C=O | C3H7NO
product | 2-Ethoxy-4-[4-(2-hydroxyethoxy)phenyl]-6-sulphanylpyridine-3,5-dicarbonitrile | C(C)OC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)S | C17H15N3O3S
